US08252820B2
N. Methanesulfonic acid 2-[3-fluoro-5-hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-4-methylphenyl ester
To a solution of methanesulfonic acid 2-[3-benzyloxy-4-(5-benzyloxymethyl-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-5-fluorobenzyl]-4-methylphenyl ester (85 mg) in EtOH (3 mL) and EtOAc (6 mL) is added 5% Pd/C (75 mg) and the mixture is hydrogenated at 1 atm for 18 h. The catalyst is filtered and washed with EtOH (3×). Solvent is evaporated to near dryness before water and acetonitile is added to form a solution. It is then lyophilized to give the title compound: MS (M−H)−=443.

reactant | methanesulfonic acid 2-[3-benzyloxy-4-(5-benzyloxymethyl-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-5-fluorobenzyl]-4-methylphenyl ester | 85 mg | C(C1=CC=CC=C1)OC=1C=C(CC2=C(C=CC(=C2)C)OS(=O)(=O)C)C=C(C1N1S(N(C(C1)=O)COCC1=CC=CC=C1)(=O)=O)F | C32H31FN2O8S2
solvent | EtOH | 3 mL | CCO | C2H6O
solvent | EtOAc | 6 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 75 mg | [Pd] | Pd
product | Methanesulfonic acid 2-[3-fluoro-5-hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-4-methylphenyl ester | FC=1C=C(CC2=C(C=CC(=C2)C)OS(=O)(=O)C)C=C(C1N1S(NC(C1)=O)(=O)=O)O | C17H17FN2O7S2
